US04687506
2-{[(4-amino-6-chloropyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoic acid, methyl ester
To a warmed mixture containing 1.4 g (0.01 mole) 2,4-diamino-6-chloropyrimidine in 50 ml acetonitrile is added 2.4 g (0.01 mole) 2-carbomethoxybenzenesulfonylisocyanate. The reaction mixture was stirred at room temperature for four days. The reaction mixture was filtered and the precipitate washed with ether. The filtered solid was air dried and purified in the following manner. To an aqueous suspension of the reaction mixture was added n-propylamine and the aqueous mixture filtered. The resultant clear solution was carefully acidified with concentrated HCl to pH=1-2. The mixture was filtered, washed with ether and air dried to yield a white solid, m.p. 170°-172° C. The infrared spectrums showed characteristic absorption bands at 1740, 1700 cm-1. The NMR and mass spectral data are consistent for the desired product.

reactant | 2,4-diamino-6-chloropyrimidine | 0.01 mole, 1.4 g | NC1=NC(=CC(=N1)N)Cl | C4H5ClN4
reactant | 2-carbomethoxybenzenesulfonylisocyanate | 0.01 mole, 2.4 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-{[(4-amino-6-chloropyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoic acid, methyl ester | NC1=NC(=NC(=C1)Cl)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C13H12ClN5O5S
